US04283539
1-(N-4-Chlorobenzyl-N-methyl-amino)-3-methyl-4-isoquinoline Acetic Acid Hydrochloride
N-Methyl-4-chlorobenzylamine (1.40 g., 9.0 mmol) and 1-chloro-3-methyl-4-isoquinoline acetic acid (770 mg., 3.0 mmol), prepared as in Example 8, were refluxed in 20 ml. p-dioxane for 16 hr. The cooled reaction mixture was partitioned between 200 ml ether and 50 ml 1 N sodium hydroxide. The ether rafinate was extracted with 2×30 ml 1 N sodium hydroxide. The combined basic phases were acidified to pH 6.5 with 6 N hydrochloric acid and extracted with 3×75 ml ethyl acetate. This organic phase was dried over magnesium sulfate, filtered, and vacuum evaporated to an oily residue. Chromatography of this on silica gel eluted with ethyl acetate gave an oil. The title compound was prepared from this oil by treatment with hydrochloric acid gas in ether, filtrate, and drying in vacuo; 52 mg. (4%), m/e 354.

reactant | N-Methyl-4-chlorobenzylamine | 9.0 mmol, 1.40 g | CNCC1=CC=C(C=C1)Cl | C8H10ClN
reactant | 1-chloro-3-methyl-4-isoquinoline acetic acid | 3.0 mmol, 770 mg | ClC1=NC(=C(C2=CC=CC=C12)CC(=O)O)C | C12H10ClNO2
reactant | p-dioxane | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(N-4-Chlorobenzyl-N-methyl-amino)-3-methyl-4-isoquinoline Acetic Acid Hydrochloride | Cl.ClC1=CC=C(CN(C)C2=NC(=C(C3=CC=CC=C23)CC(=O)O)C)C=C1 | InChI=1S/C20H19ClN2O2.ClH/c1-13-18(11-19(24)25)16-5-3-4-6-17(16)20(22-13)23(2)12-14-7-9-15(21)10-8-14;/h3-10H,11-12H2,1-2H3,(H,24,25);1H
